data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_628348_1,[C@@:1]12([C:4]([H:17])([H:18])[H:19])[C:3]([H:14])([H:15])[C@@:8]([C:2]([O:9][H:10])([H:12])[H:13])([H:16])[C@:7]1([C:5]([H:20])([H:21])[H:22])[N:6]2[H:11]>>[C:1]1([C:2]([O:9][H:10])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])[C:3]([H:14])([H:15])[C:8]([H:16])=[C:7]([C:5]([H:20])([H:21])[H:22])[N:6]1[H:11],37.23585000001265
MR_14510_1,[C:1](/[C:3](=[N:6]/[O:5][H:7])[H:10])([O:4][C:2]([H:11])([H:12])[H:13])([H:8])[H:9]>>[C:1](=[C:3]([N:6]([O:4][C:2]([H:11])([H:12])[H:13])[O:5][H:7])[H:10])([H:8])[H:9],72.14430250001598
MR_191198_0,[C:1]([N:3]([N:4]([C:2]([H:17])([H:18])[H:19])[H:9])/[C:5]([N:7]([H:12])[H:13])=[N:8]/[N:6]([H:10])[H:11])([H:14])([H:15])[H:16]>>[C:1](/[N:3]=[C:5](/[N:7]([H:12])[H:13])[N:8]([N:4]([C:2]([H:17])([H:18])[H:19])[H:9])[N:6]([H:10])[H:11])([H:14])([H:15])[H:16],70.65273499996522
MR_105335_0,[C:1](/[C:4](=[C:3]([C:2](=[N:5]\[H:6])/[H:7])\[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:4]1([H:9])[C:3]([H:8])=[C:2]([H:7])[N:5]1[H:6])([H:10])([H:11])[H:12],48.20078500000818
MR_500370_0,[C@:1]([C:2](/[N:8]=[C:5](/[N:4]([H:11])[H:12])[H:15])([H:13])[H:14])([C:3]([H:16])([H:17])[H:18])([O:6][O:7][H:9])[H:10]>>[C@:1]1([C:3]([H:16])([H:17])[H:18])([H:10])[C:2]([H:13])([H:14])[N:8]1[C@:5]([N:4]([H:11])[H:12])([O:6][O:7][H:9])[H:15],72.82765000000282
MR_412399_0,[C:1](/[N:6]=[C:2](\[N:3]([H:8])[H:9])[O:4][O:5][H:7])([H:10])([H:11])[H:12]>>[C:1]([N:6]([C:2]1([N:3]([H:8])[H:9])[O:4][O:5]1)[H:7])([H:10])([H:11])[H:12],24.49006999998332
MR_478500_1,[C:1]1([O:7][H:9])([H:10])[C:2]([H:15])([H:16])[N:8]=[C:4]([N:6]([H:13])[H:14])[N:3]1[N:5]([H:11])[H:12]>>[C:1]1([O:7][H:9])([H:10])[C:2]([H:15])([H:16])[N:8]1/[C:4](=[N:3]/[N:5]([H:11])[H:12])[N:6]([H:13])[H:14],61.02751250001148
MR_567_2,[C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[C:4]([H:12])[H:13])[H:8])([O:5][H:6])[H:7]>>[C:1](\[C:2]([H:9])([H:10])[H:11])(=[C:3](/[C:4]([H:7])([H:12])[H:13])[H:8])[O:5][H:6],72.90922499999304
MR_69090_1,[C:1](/[C:5](=[C:4](\[N:2]([C:3]([O:6][H:8])=[O:7])[H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C@:5]([C:3]([O:6][H:8])=[O:7])(/[C:4](=[N:2]\[H:9])[H:10])[H:11])([H:12])([H:13])[H:14],68.97166249996488
MR_397358_2,[C:1]([N:3]([C:4]([C:2]([H:15])([H:16])[H:17])=[O:8])/[C:6](=[N:7]/[N:5]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[C:6](/[N:7]([C:4]([C:2]([H:15])([H:16])[H:17])=[O:8])[N:5]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14],39.41013750001616
MR_651377_0,[C:1](/[C:2]([N:4]([H:10])[H:11])=[N:6]/[N:3]([H:8])[H:9])([N:5]=[O:7])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:2]([N:4]([H:10])[H:11])([N:5]=[O:7])[N:6]1[N:3]([H:8])[H:9],64.94562249999959
MR_358727_1,[C:1]([C:2]([H:15])([H:16])[H:17])([N:5]([C:3]([H:18])([H:19])[H:20])[H:10])(/[C:6]([N:8]([H:13])[H:14])=[N:9]/[C:4]([H:21])([H:22])[H:23])[N:7]([H:11])[H:12]>>[C:1]1([C:2]([H:15])([H:16])[H:17])([N:7]([H:11])[H:12])[C:6]([N:5]([C:3]([H:18])([H:19])[H:20])[H:10])([N:8]([H:13])[H:14])[N:9]1[C:4]([H:21])([H:22])[H:23],59.34079249998973
MR_594992_0,[C:1]([C:2]([O:7][N:4]([H:11])[H:12])([H:15])[H:16])([N:5]([H:13])[H:14])([O:6][N:3]([H:9])[H:10])[H:8]>>[C:1]([C:2]([O:6][N:3]([H:9])[H:10])([H:15])[H:16])([N:5]([H:13])[H:14])([O:7][N:4]([H:11])[H:12])[H:8],54.31326250002044
MR_13860_0,[C:1]([N:3]([C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])[N:6]=[C:5]([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1](/[N:3]=[C:4](/[C:2]([H:11])([H:12])[H:13])[O:7][N:6]=[C:5]([H:14])[H:15])([H:8])([H:9])[H:10],73.10877000004211
MR_414765_0,[C:1]1([C:4]([H:16])([H:17])[H:18])([O:8][H:10])[C:3]([H:14])([H:15])[N:6]1[C:2]([N:7]([C:5]([H:19])([H:20])[H:21])[H:13])([O:9][H:11])[H:12]>>[C:1]([C:3](/[N:6]=[C:2](\[O:9][H:11])[H:12])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([N:7]([C:5]([H:19])([H:20])[H:21])[H:13])[O:8][H:10],44.62215250001904
MR_575386_0,[C:1]1([C:2]([H:12])([H:13])[H:14])=[N:8][C:6]([N:5]([H:9])[H:10])([H:11])[C:4]([C:3]([H:15])([H:16])[H:17])=[N:7]1>>[C:1]1([C:2]([H:12])([H:13])[H:14])([N:5]([H:9])[H:10])[N:7]=[C:4]([C:3]([H:15])([H:16])[H:17])[C:6]([H:11])=[N:8]1,72.82765000003849
MR_67059_0,[C:1]([N:4]([C:2]([H:12])([H:13])[H:14])[H:9])([C:5]([C:6]([C:3]([H:15])([H:16])[H:17])=[O:8])=[O:7])([H:10])[H:11]>>[C:1]([C:5]([N:4]([C:2]([H:12])([H:13])[H:14])[H:9])=[O:7])([C:6]([C:3]([H:15])([H:16])[H:17])=[O:8])([H:10])[H:11],65.27129499996207
MR_416951_1,[C:1]12([H:9])[N:4]([H:8])[C@:6]([C:3]([H:14])([H:15])[H:16])([H:10])[C@@:5]1([C:2]([H:11])([H:12])[H:13])[O:7]2>>[C:1]1([H:9])([H:10])[N:4]([H:8])[C:6]([C:3]([H:14])([H:15])[H:16])=[C:5]([C:2]([H:11])([H:12])[H:13])[O:7]1,45.03504750001099
MR_638335_2,[C:1]([N:4]([O:8][H:9])[H:10])([C:5]([C:2]([C:3]([H:18])([H:19])[H:20])([H:14])[H:15])=[C:7]([H:16])[H:17])([N:6]([H:12])[H:13])[H:11]>>[C:1]1([N:6]([H:12])[H:13])([H:11])[C:5]([C:2]([C:3]([H:18])([H:19])[H:20])([H:14])[H:15])([N:4]([O:8][H:9])[H:10])[C:7]1([H:16])[H:17],65.97660499996479
